US07897767B2
A solution of 7-bromo-2-(chloromethyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine (7.65 g, 20.8 mmol) in DMF (20 mL) was added dropwise via addition funnel to a solution of N-hydroxyphthalimide (4.07 g, 25.0 mmol) and triethylamine (4.3 mL, 31.2 mmol) in DMF (20 mL). The addition funnel was rinsed with DMF (20 mL) and the rinse was added to the reaction solution, which was stirred at room temperature. After 30 minutes, a precipitate formed. The viscous mixture was stirred at room temperature overnight, then diethyl ether (150 mL) was added. The solid was isolated by filtration, washed with diethyl ether, and dried under vacuum to provide 7.44 g of 2-{[4-amino-7-bromo-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methoxy}-1H-isoindole-1,3(2H)-dione, which contained some triethylamine hydrochloride. The filtrate was concentrated to yield 8.5 g of a brown oil, which was found to contain product and was combined with the material from above and used in the next step.

reactant | 7-bromo-2-(chloromethyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 20.8 mmol, 7.65 g | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)C)CCl | C15H16BrClN4
reactant | N-hydroxyphthalimide | 25.0 mmol, 4.07 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triethylamine | 31.2 mmol, 4.3 mL | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-{[4-amino-7-bromo-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methoxy}-1H-isoindole-1,3(2H)-dione | 7.44 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)C)CON2C(C1=CC=CC=C1C2=O)=O)Br | C23H20BrN5O3
